US08664216B2
1-Bromo-8-chloro-5-methyl-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzoazulene
A mixture of 1-bromo-8-chloro-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene (1.9 g, 6.4 mmol) and paraformaldehyde (1.5 g, 51 mmol) in methanol (64 ml) was heated at reflux for 16 h. After cooling to 0° C. sodium cyanoborohydride (0.8 g, 13 mmol) was added. The reaction mixture was allowed to warm to room temperature and stirred for 3 h. After quenching with 1 M aqueous sodium hydroxide solution (200 ml) the aqueous layer was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo. Flash chromatography over aminopropyl-modified silica gel with n-heptane/ethyl acetate as eluent gave the title compound (0.61 g) as white solid with a purity of ca. 85% as assessed by 1H-NMR. MS m/e: 313 (M+H+).

reactant | 1-bromo-8-chloro-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene | 6.4 mmol, 1.9 g | BrC1=NN=C2CNCC3=C(N12)C=CC(=C3)Cl | C10H8BrClN4
reactant | paraformaldehyde | 51 mmol, 1.5 g | C=O | CH2O
reactant | sodium cyanoborohydride | 13 mmol, 0.8 g | C(#N)[BH3-].[Na+]
solvent | methanol | 64 ml | CO | CH4O
product | 1-Bromo-8-chloro-5-methyl-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzoazulene | 0.61 g | BrC1=NN=C2CN(CC3=C(N12)C=CC(=C3)Cl)C | C11H10BrClN4
